reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[C:5]#[C:6][H:14])([H:7])[H:8].[O:4]([H:9])[H:13],65.1342686395971
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5](=[C:6]=[N:7][H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],93.2706308875848
[C:1]([O:2][C:3]([C:4](=[C:5]([H:14])[H:15])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:13])([H:16])([H:17])[H:18]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],92.00374492541849
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([N+:6]#[C-:5])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],39.359156589502
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:14])([H:15])/[C:5]1=[N:6]\[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[N:6])([H:7])([H:8])[H:9],71.72686718905359
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]=[C:5]=[C:6]=[O:7])([H:8])([H:9])[H:10].[H:11][H:15],65.8622517673693
[C:1]([C:2]#[C:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],52.334526850123
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([O-:5])=[C+:6][H:13])([H:11])[H:12])([H:10])[H:14])([H:7])([H:8])[H:9],75.7500650609595
[C:5]([O:6][H:13])[H:11].[N:1]([C:2](=[O:3])[C:4]([H:9])([H:10])[H:12])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],18.70737031757629
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:13])[O:4]/[C:6](=[N:7]\[H:14])[C:5]1([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],74.2116631478067
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[O:5]/[C:6]1=[N:7]\[H:15])[H:11])([H:8])([H:9])[H:10],75.68676498094341
[C:1]([C:2]([C@@:3]1([H:12])[C:5]([N:4]([H:13])[H:14])=[N:6]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],70.43456462597388
[C:1]([C:2]([C@@:3]1([H:13])[O:4][C@@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:14])[H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],52.94292071645599
[N:1](=[C:2]=[C:7]([N:3]=[N:4][H:9])[H:10])[H:8].[O+:5]#[C-:6]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],38.3167836533347
[C:1](#[C:2][C:3]([C:4](=[C:5]=[C:6]([H:10])[H:12])[H:11])([H:8])[H:9])[H:7]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],82.6742279204183
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]([C:2](=[O+:3][C-:4]([H:10])[H:11])[H:9])([C:6]1=[N:7][C:5]1([H:12])[H:13])[H:8],122.50180668806802
[C:1]([C:2]([O:3][C-:4]=[O+:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],47.862174055331
[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[N:2]([H:9])[C:3]([H:10])([H:11])[C:4][N:5]1[H:6],79.79306629538901
[C-:5]#[O+:6].[C:1](/[C:2]([O:3][H:11])=[N:4]\[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],24.864919182342
[C:1](/[C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])/[N:5]=[C:6](\[O:7][H:13])[H:18])[H:12])([H:8])([H:9])[H:10].[H:11][H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],58.68306247471941
[C:1](=[C:2]=[N:3][H:10])([H:7])[H:8].[O:4]=[C:5]([O:6][H:9])[H:11]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],22.040568059764794
[C:1]([C:2]([C@@:3]([O:4][H:14])(/[C:5](=[C:6](\[O:7][H:15])[H:17])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],58.230969188043304
[O:1]([C:2]([C:3](=[C:4]=[C:5]([N+:7]#[C-:6])[H:12])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],82.1455793495947
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]1[C@@:2]([C:6]#[C:7][H:14])([H:8])[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]1([H:12])[H:13],122.57305680418501
